US06660744B1
A mixture of N-benzyl-N-ethyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.065 g, 0.000193 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.071 g, 0.000161 mol), tetrakis-(triphenylphosphine)palladium (0.011 g, 0.00001 mol) and sodium carbonate monohydrate (0.056 g, 0.00045 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-3-{4-[benzyl(ethyl)amino]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate (0.049 g, 0.000076 mol) as a white solid.

reactant | N-benzyl-N-ethyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000193 mol, 0.065 g | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC | C21H28BNO2
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000161 mol, 0.071 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.00045 mol, 0.056 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | cis-3-{4-[benzyl(ethyl)amino]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate | 0.000076 mol, 0.049 g | C(C)(=O)O.C(C)(=O)O.C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)CC | InChI=1S/C31H40N8.2C2H4O2/c1-3-37(21-23-7-5-4-6-8-23)25-11-9-24(10-12-25)29-28-30(32)33-22-34-31(28)39(35-29)27-15-13-26(14-16-27)38-19-17-36(2)18-20-38;2*1-2(3)4/h4-12,22,26-27H,3,13-21H2,1-2H3,(H2,32,33,34);2*1H3,(H,3,4)/t26-,27+;;
